US08877794B2
38.1 (3-Benzyloxy-phenyl)-[1-(4-chloro-phenyl)-cyclobutyl]-methanone
To a solution of 1-(4-chlorophenyl)cyclobutanecarbonitrile (2.5 g, 13 mmol) in tetrahydrofuran was added at −5° C. under nitrogen 4-(benzyloxy)phenyl)magnesium bromide (1 M, 39 ml, 39 mmol). The mixture was stirred over night at room temperature. A saturated solution of ammonium chloride and water was added. The organic layer was separated, and the aqueous layer extracted with diethyl ether. The combined organic layers were dried (sodium sulfate) and the solvent evaporated. Purification on SiO2 afforded 3.3 g of desired product as colorless oil.

reactant | 1-(4-chlorophenyl)cyclobutanecarbonitrile | 13 mmol, 2.5 g | ClC1=CC=C(C=C1)C1(CCC1)C#N | C11H10ClN
reactant | magnesium bromide | 39 mmol, 1 M, 39 ml | [Br-].[Mg+2].[Br-]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | O | H2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | (3-Benzyloxy-phenyl)-[1-(4-chloro-phenyl)-cyclobutyl]-methanone | 3.3 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(=O)C1(CCC1)C1=CC=C(C=C1)Cl | C24H21ClO2
